US05654299
a. 2,4-Dibenzyloxybromobenzene
Using a procedure similar to that described in Example 17.a., except using 4-bromoresorcinol and using two equivalents of benzyl bromide and potassium carbonate, the named compound was prepared as a white solid; MS: 369; NMR: 5.0 (s, 2), 5.1(s, 2), 6.47(d, d, J1 =8, J2 =2.6, 1), 6.6 (d, J=2.7, 1), 7.2-7.5 (m, 11).

reactant | 4-bromoresorcinol | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | benzyl bromide | two equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2,4-Dibenzyloxybromobenzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)Br | C20H17BrO2
